US07253166B2
To a solution of 6-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine (122 mg, 0.53 mmol), prepared as in reference 1, in THF (5 mL) at 0° C. is added NaH (31.8 mg, 0.80 mmol, 60% dispersion in oil) portion wise and the reaction mixture is warmed to room temperature for 1 hour. Methyl iodide (103 μL, 1.59 mmol) is added and the mixture is stirred overnight. The reaction is quenched with water and extracted three times with EtOAc. The combined organic layer is washed with brine, dried over MgSO4, and concentrated. Flash column chromatography of the crude product using 1% MeOH in DCM yielded 100 mg of 6-bromo-4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine (77%); 1H NMR (500 MHz, DMSO) δ 8.64 (s, 1H), 6.96 (s, 1H), 3.79 (s, 3H); LC-ESMS observed [M+H]+ 245.9 (calculated for C7H5BrClN3 244.9).

reactant | 6-bromo-4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.53 mmol, 122 mg | BrC1=CC2=C(N=CN=C2Cl)N1 | C6H3BrClN3
reactant | NaH | 0.80 mmol, 31.8 mg | [H-].[Na+]
reactant | Methyl iodide | 1.59 mmol, 103 μL | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-bromo-4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 100 mg, 77% | BrC1=CC2=C(N=CN=C2Cl)N1C | C7H5BrClN3
